US07342119B2
4.91 g (10.0 mmol, 1 eq) 2-[2-(1-Benzhydryl-5-chloro-1H-indol-2-yl)-ethyl]-isoindole-1,3-dione made according to Example 3 was suspended in 50 mL CH2Cl2. 3.50 g (30.0 mmol, 3 eq) triethylsilane, 2.47 g (12 mmol, 1.2 eq) 4-(3-Oxo-propyl)-benzoic acid ethyl ester and chloro-acetic acid 7.56 g (80 mmol, 8 eq) were added in one portion. The mixture was heated to reflux for 92 h. LC showed less then 2% starting material at this end point. 15 mL sat. aq. NaHCO3 and 10 mL water was added to the reaction mixture, and stirring was continued over a period of 16 h. 10 mL MeOH was then added and the solid was collected by filtration. 9.4 g off-white solid was dried in the oven for 3 h at 60° C. to give 6.12 g 4-(3-{1-Benzhydryl-5-chloro-2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-1H-indol-3-yl}-propyl)-benzoic acid ethyl ester (90% yield) with 74% purity.

reactant | 2-[2-(1-Benzhydryl-5-chloro-1H-indol-2-yl)-ethyl]-isoindole-1,3-dione | 10.0 mmol, 4.91 g, 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Cl)CCN1C(C2=CC=CC=C2C1=O)=O | C31H23ClN2O2
reactant | triethylsilane | 30.0 mmol, 3.50 g, 3 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | 4-(3-Oxo-propyl)-benzoic acid ethyl ester | 12 mmol, 2.47 g, 1.2 eq | C(C)OC(C1=CC=C(C=C1)CCC=O)=O | C12H14O3
reactant | chloro-acetic acid | 80 mmol, 7.56 g, 8 eq | ClCC(=O)O | C2H3ClO2
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 4-(3-{1-Benzhydryl-5-chloro-2-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethyl]-1H-indol-3-yl}-propyl)-benzoic acid ethyl ester | 6.12 g, 90% yield | C(C)OC(C1=CC=C(C=C1)CCCC1=C(N(C2=CC=C(C=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCN1C(C2=CC=CC=C2C1=O)=O)=O | C43H37ClN2O4
